US07696231B2
a) Preparation of 4-(1H-tetrazol-5-yl)benzohydrazide (Scheme 2, compound B)
To a suspension of methyl 4-(1H-tetrazol-5-yl)benzoate (1.00 g, 4.16 mmol) in EtOH (15 mL) was added hydrazine hydrate (3.0 mL). After stirring for 15 hrs at reflux, the reaction mixture was allowed to warm up to rt. A white solid precipitated out. Filtration, washing with EtOH (2×3 mL), EtOH/water (2×3 mL) and water (2×3 mL) and drying under vacuo at 70° C. for 5 hrs gave 677 mg of the title compound as a white solid in a 80% yield.

reactant | methyl 4-(1H-tetrazol-5-yl)benzoate | 4.16 mmol, 1.00 g | N1N=NN=C1C1=CC=C(C(=O)OC)C=C1 | C9H8N4O2
reactant | hydrazine hydrate | 3.0 mL | O.NN
solvent | EtOH | 15 mL | CCO | C2H6O
product | 4-(1H-tetrazol-5-yl)benzohydrazide | 677 mg, 80% yield | N1N=NN=C1C1=CC=C(C(=O)NN)C=C1 | C8H8N6O
